US06172057B2
2-Benzyl-2-(4-methoxy-benzenesulfonyl)-3-phenyl-propionic acid was prepared starting from 2-benzyl-2-(4-methoxy-benzenesulfonyl)-3-phenyl-propionic acid ethyl ester (1.0 g, 2.2 mmol) dissolved in methanol (50 ml) and 10 N NaOH (30 ml). The resulting reaction mixture was worked up as outlined in Example 9. Yield: 580 mg, 62%; Waxy solid; MS: 409 (M−H)−.

reactant | 2-benzyl-2-(4-methoxy-benzenesulfonyl)-3-phenyl-propionic acid ethyl ester | 2.2 mmol, 1.0 g | C(C)OC(C(CC1=CC=CC=C1)(S(=O)(=O)C1=CC=C(C=C1)OC)CC1=CC=CC=C1)=O | C25H26O5S
solvent | methanol | 50 ml | CO | CH4O
solvent | NaOH | 10 N, 30 ml | [OH-].[Na+]
product | 2-Benzyl-2-(4-methoxy-benzenesulfonyl)-3-phenyl-propionic acid | C(C1=CC=CC=C1)C(C(=O)O)(CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C23H22O5S
